US08486963B2
Step 1: 7-(2-Fluoro-4-methylsulfanyl-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (2-vinyloxy-ethoxy)-amide
7-(2-Fluoro-4-methylsulfanyl-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (200 mg, 0.63 mmol), O-(2-vinyloxy-ethyl)-hydroxylamine (106 mg, 0.69 mmol), HOBt (94 mg, 0.69 mmol), EDCI hydrochloride (132 mg, 0.69 mmol) and DIPEA (118 μL, 0.69 mmol) were dissolved in DMF (5 mL). The reaction was stirred at room temperature for 16 hours then concentrated in vacuo. The resultant residue was dissolved in ethyl acetate (10 mL), washed with aqueous saturated sodium bicarbonate solution (10 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-100% ethylacetate in cyclohexane) to yield the title compound as a brown solid (139 mg, 55%). LCMS (Method B): RT=3.35 min, M+H+=403.

reactant | 7-(2-Fluoro-4-methylsulfanyl-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid | 0.63 mmol, 200 mg | FC1=C(C=CC(=C1)SC)NC1=C(C=C2N1C=NC=C2)C(=O)O | C15H12FN3O2S
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 0.69 mmol, 106 mg | C(=C)OCCON | C4H9NO2
reactant | HOBt | 0.69 mmol, 94 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI hydrochloride | 0.69 mmol, 132 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 0.69 mmol, 118 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-(2-Fluoro-4-methylsulfanyl-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (2-vinyloxy-ethoxy)-amide | 139 mg, 55% | C(=C)OCCONC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)SC)F | C19H19FN4O3S
